US08003785B2
A solution of 0.3 g (0.0082 mole) of 2-chloro-7,7-difluoro-9-(4-methoxy-benzyl)-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-291) and 0.3 mL of anisole in 10 mL of trifluoroacetic acid was heated at 85 degrees in a pressure tube for 24 hours. The mixture was concentrated under reduced pressure, a small amount of methanol was added followed by ether. The resulting solid was collected by filtration and washed with ether to give 0.26 g of 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-292). as a lightly yellow solid.

reactant | 2-chloro-7,7-difluoro-9-(4-methoxy-benzyl)-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0082 mole, 0.3 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)CC2=CC=C(C=C2)OC)N1 | C16H15ClF2N4O2
reactant | anisole | 0.3 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.26 g | ClC=1N=CC2=C(NCC(C(N2C)=O)(F)F)N1 | C8H7ClF2N4O
